US08748462B2
(2E)-3-(2,5-Difluoro-4-(methyloxy)phenyl)-2-propenoic acid (H3.1)
A 250 mL round bottom flask was charged with 2,5-difluoro-4-methyoxybenzaldehyde (commercially available from Manchester Organics Ltd., UK) (18.45 g, 107.2 mmol), malonic acid (commercially available from Sigma-Aldrich, St. Louis, Mo., USA) (12.27 g, 117.9 mmol), and 10:1 EtOH/pyridine (27 mL). The mixture was stirred overnight at 70° C. under a reflux condenser and cooled to 0° C. for 2 hours. The precipitated solid was filtered, rinsed with ether, and dried in vacuo to afford H3.1 (16.96 g, 74% yield) as a white powder.

reactant | 2,5-difluoro-4-methyoxybenzaldehyde | FC1=C(C=O)C=C(C(=C1)OC)F | C8H6F2O2
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
solvent | EtOH pyridine | 27 mL | CCO.N1=CC=CC=C1
product | (2E)-3-(2,5-Difluoro-4-(methyloxy)phenyl)-2-propenoic acid | 74% yield | FC1=C(C=C(C(=C1)OC)F)/C=C/C(=O)O | C10H8F2O3
